US05691323
To a stirred solution of 4.06 g of 5-pyrimidineacetic acid (F. Zymalkowski and E. Reimann, Arch. Pharm. 1966 299 362-7) and triethylamine (6.55 g) in methylene chloride (150 mL) at 0° C. was added ethyl chloroformate (6.38 g) followed by 4-dimethylaminopyridine (0.72 g). The mixture was stirred at 0° C. for 1 h, then the solution was diluted with methylene chloride (200 mL) and saturated ammonium chloride (150 mL) was added. After removal of the organic phase, the aqueous layer was extracted with methylene chloride (2×200 mL) and the combined organic extracts were dried over MgSO4 and concentrated to give 7.33 g of a crude oil. Purification by column chromatography, eluting with hexane; 50% ethyl acetate gave ethyl 5-pyrimidinylacetate (3.98 g) as a colorless oil.

reactant | 5-pyrimidineacetic acid | 4.06 g | N1=CN=CC(=C1)CC(=O)O | C6H6N2O2
reactant | triethylamine | 6.55 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6.38 g | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.72 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ammonium chloride | 150 mL | [Cl-].[NH4+]
product | ethyl 5-pyrimidinylacetate | 3.98 g | N1=CN=CC(=C1)CC(=O)OCC | C8H10N2O2
